### PR TITLE
feat: Uniqueness of variational gradient

### PR DESCRIPTION
**Pull request by lecopivo**
The main theorem of this PR is that variational gradient is unique
```
 HasVarGradientAt S' grad u μ → HasVarGradientAt S' grad' u μ → grad = grad'
```

Slightly weaker result holds for variational adjoint which is true only point wise on test functions.
```
  HasVarAdjoint F F' μ → HasVarAdjoint F G' μ →
  ∀ φ, IsTestFunction φ → F' φ = G' φ
```

### CODE REVIEW

**Comment by lecopivo** [comment]
Ugh I can't git and I didn't branch from `master` but from `lecopivo/has_var_gradient` and now it thinks that all the files are brand new ... I will try to fix it

**Comment by jstoobysmith** [comment]
Yeah this happens :(. I think rebasing works `git rebase origin/master`

**Comment by lecopivo** [comment]
Fixed!

File: PhysLean/Mathematics/VariationalCalculus/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,52 @@
...
+    · fun_prop
+  · intro x
+    simp
+    exact real_inner_self_nonneg
+  · apply IsTestFunction.integrable
+    exact IsTestFunction.inner hf hf
+
+
+-- The assumption `IsTestFunction f` can be weakened to `Continuous f`
+proof_wanted fundamental_theorem_of_variational_calculus' {f : X → V}
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/VariationalCalculus/Basic.lean]: If you use 
```lean
semiformal_result "FIE3I" fundamental_theorem_of_variational_calculus'  {f : X → V}
  (μ : Measure X)  [IsFiniteMeasureOnCompacts μ] [μ.IsOpenPosMeasure]
  [OpensMeasurableSpace X]
  (hf : Continuous f) (hg : ∀ g, IsTestFunction g → ∫ x, ⟪f x, g x⟫_ℝ ∂μ = 0) :
    f = 0
```
(where the "FIE3I" is just a unique identifier) with the import 
```
import PhysLean.Meta.Informal.SemiFormal
```
then this will be added to the [TODO list](https://physlean.com/TODOList).

Comment (jstoobysmith) [reply PhysLean/Mathematics/VariationalCalculus/Basic.lean]: `semiformal_result` is a thin wrapper around `proof_wanted` just to make the TODO list work.

File: PhysLean/Mathematics/VariationalCalculus/HasVarGradient.lean [hunk 2]
```diff
@@ -61,16 +68,84 @@ HasVarGradientAt
...
+    simp
+  have h := hgrad φ hφ
+    (by intros _ hx; unfold φ; rw[φ.one_of_mem_closedBall]; apply hφ'; simp[hx])
+  have h' := hgrad' φ hφ
+    (by intros _ hx; unfold φ; rw[φ.one_of_mem_closedBall]; apply hφ'; simp[hx])
+  rw[← h, ← h',hF.unique hG φ hφ]
 
 /-- Variation of `S(x) = ∫ 1/2*m*‖ẋ‖² - V(x)` gives Newton's law of motion `δS(x) = - m*ẍ - V'(x)`-/
-example (m : ℝ) (u V : ℝ → ℝ) (hu : ContDiff ℝ ∞ u) (hV : ContDiff ℝ ∞ V) :
+lemma euler_lagrange_particle_1d (m : ℝ) (u V : ℝ → ℝ)
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/VariationalCalculus/HasVarGradient.lean:130]: Maybe we could put this in the `ClassicalMechanics` directory?

Comment (lecopivo) [reply PhysLean/Mathematics/VariationalCalculus/HasVarGradient.lean:130]: Yes this needs to be moved. I'm drafting PR where I show that variational gradient of action are Euler-Lagrange equations. This will be just a corollary.

File: PhysLean/Mathematics/VariationalCalculus/Basic.lean (hunk 1 above)
Comment (lecopivo) [reply PhysLean/Mathematics/VariationalCalculus/Basic.lean]: How am I supposed to come up with the unique identifiers?

Comment (jstoobysmith) [reply PhysLean/Mathematics/VariationalCalculus/Basic.lean]: "FIE3I" is unique :), but generally `lake exe make_tag`

File: PhysLean/Mathematics/VariationalCalculus/HasVarGradient.lean (hunk 2 above)
Comment (lecopivo) [reply PhysLean/Mathematics/VariationalCalculus/HasVarGradient.lean:130]: This will be fixed in #615

File: PhysLean/Mathematics/VariationalCalculus/Basic.lean (hunk 1 above)
Comment (lecopivo) [reply PhysLean/Mathematics/VariationalCalculus/Basic.lean]: fixed

Comment (lecopivo) [reply PhysLean/Mathematics/VariationalCalculus/Basic.lean]: Hmm id does not work. I'm getting `unexpected token 'semiformal_result'; expected command`

Comment (jstoobysmith) [reply PhysLean/Mathematics/VariationalCalculus/Basic.lean]: Sorry - my bad, the semi-formal result is required to have a doc-string (which is the thing which will actually appear in the TODO list).

**Review by jstoobysmith — APPROVED** [review]
